US05998433
b) Synthesis of 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl)propan-1-one
To a solution of 0.331 g (0.921 mmol) of 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl) propan-1-one in 20 ml of acetic acid, 0.10 g (1.1 mmol) of 50% aqueous dimethylamine and 0.09 g (1.1 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 15 minutes. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 1-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl) propan-1-one | 0.921 mmol, 0.331 g | O1C=CC=2CN(CCC21)C(CCC2=CC(=CC=C2)CCC2=CC=CC=C2)=O | C24H25NO2
reactant | dimethylamine | 1.1 mmol, 0.10 g | CNC | C2H7N
reactant | formaldehyde | 1.1 mmol, 0.09 g | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-3-(3-phenethylphenyl)propan-1-one | CN(C)CC1=CC=2CN(CCC2O1)C(CCC1=CC(=CC=C1)CCC1=CC=CC=C1)=O | C27H32N2O2
